US05693320
(1) 4-methacryloyloxysalicylic acid (intermediate)
2,4-dihydroxybenzoic acid (64.88 millimole, 10.0 g) was dissolved in an aqueous solution (300 g) of sodium hydroxide (1.7% by weight) to give an orange solution and the solution was cooled to 0° C. by ice bath. While stirring under a flow of nitrogen gas, a solution of methacryl chloride (8.0 g) in dichoromethane (100 ml) was added to the solution over a period of 60 minutes, and the solution was kept stirred at 0° C. for four hours after completing the addition. After the solution was stood to slowly warm to room temperature, the solution was further stirred overnight. The aqueous layer was separated from the organic layer, and to the aqueous layer was added an aqueous solution of 1N HCl so as to adjust its pH to 1. The solution was stood overnight to give colorless powder, and the powder was filtrated. The powder was washed by cold acidic water (100 ml) three times. After drying the powder under a reduced pressure at room temperature, the powder was recrystallized at 60° C. by an aqueous solution of methanol containing a small amount of hydroquinone to give colorless crystal having a needle shape: yield 10.11 g, 70.1%.

reactant | 2,4-dihydroxybenzoic acid | 64.88 millimole, 10.0 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | methacryl chloride | 8.0 g | CC(=C)C(=O)Cl | C4H5ClO
solvent | sodium hydroxide | 300 g | [OH-].[Na+]
solvent | dichoromethane | 100 ml | ClCCl | CH2Cl2
product | 4-methacryloyloxysalicylic acid | C(C(=C)C)(=O)OC=1C=C(C(C(=O)O)=CC1)O | C11H10O5
